US08748624B2
STEP A: ethyl 3-(5-(4-chloro-2-formylphenyl)picolinamido)propanoate
Ethyl 3-(5-bromopicolinamido)propanoate, prepared as in Example 1, (1.5 g, 5.0 mmol), (4-chloro-2-formylphenyl)boronic acid (1.0 g, 5.5 mmol), Pd(dppf)Cl2 (408 mg, 0.5 mmol), and K2CO3 (1.4 g, 10.0 mmol) were dissolved in 1,4-dioxane (20 mL) and water (5 mL) and heated to 80° C. After 3 h the resulting mixture was cooled to room temperature, diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-bromopicolinamido)propanoate | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C11H13BrN2O3
reactant | (4-chloro-2-formylphenyl)boronic acid | 5.0 mmol, 1.5 g | ClC1=CC(=C(C=C1)B(O)O)C=O | C7H6BClO3
reactant | K2CO3 | 10.0 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.5 mmol, 408 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(4-chloro-2-formylphenyl)picolinamido)propanoate | ClC1=CC(=C(C=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C18H17ClN2O4
